US07615556B2
Step 1: ((1R,2S)-2-aminocyclopentyl)(4-(4-chlorophenyl)-3,3-dimethylpiperazin-1-yl)methanone hydrochloride
tert-Butyl (1S,2S)-2-(4-(4-chlorophenyl)-3,3-dimethylpiperazine-1-carbonyl)cyclopentylcarbamate was dissolved in 4N HCl in dioxane to provide, after concentrating and drying, ((1R,2S)-2-aminocyclopentyl)(4-(4-chlorophenyl)-3,3-dimethylpiperazin-1-yl)methanone hydrochloride.

reactant | tert-Butyl (1S,2S)-2-(4-(4-chlorophenyl)-3,3-dimethylpiperazine-1-carbonyl)cyclopentylcarbamate | ClC1=CC=C(C=C1)N1C(CN(CC1)C(=O)[C@@H]1[C@H](CCC1)NC(OC(C)(C)C)=O)(C)C | C23H34ClN3O3
solvent | HCl | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | ((1R,2S)-2-aminocyclopentyl)(4-(4-chlorophenyl)-3,3-dimethylpiperazin-1-yl)methanone hydrochloride | Cl.N[C@@H]1[C@@H](CCC1)C(=O)N1CC(N(CC1)C1=CC=C(C=C1)Cl)(C)C | InChI=1S/C18H26ClN3O.ClH/c1-18(2)12-21(17(23)15-4-3-5-16(15)20)10-11-22(18)14-8-6-13(19)7-9-14;/h6-9,15-16H,3-5,10-12,20H2,1-2H3;1H/t15-,16+;/m1./s1
